US09315467B2
Part C. A solution of ethyl 3-(2-chloro-pyridin-4-yl)-benzoate (81 mg, 0.31 mmol), sodium carbonate (99 mg, 0.93 mmol) and 4-isopropylbenzeneboronic acid (60 mg) in acetonitrile-water (2 mL/0.5 mL) is treated with a catalytic quantity of tetrakis(triphenylphosphine)palladium, and heated to reflux for 24 h. The mixture is poured into water (60 mL), and this mixture is extracted with diethyl ether (3×60 mL). The extracts are combined, washed with brine, dried over magnesium sulfate, filtered and evaporated to afford ethyl 3-[2-(4-isopropyl-phenyl)-pyridin-4-yl]-benzoate (75 mg, 76%)

reactant | ethyl 3-(2-chloro-pyridin-4-yl)-benzoate | 0.31 mmol, 81 mg | ClC1=NC=CC(=C1)C=1C=C(C(=O)OCC)C=CC1 | C14H12ClNO2
reactant | sodium carbonate | 0.93 mmol, 99 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-isopropylbenzeneboronic acid | 60 mg | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | water | 60 mL | O | H2O
solvent | acetonitrile water | 2 mL | C(C)#N.O
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-[2-(4-isopropyl-phenyl)-pyridin-4-yl]-benzoate | 75 mg, 76% | C(C)(C)C1=CC=C(C=C1)C1=NC=CC(=C1)C=1C=C(C(=O)OCC)C=CC1 | C23H23NO2
